US07935702B2
1. 5-(Trifluoromethyl)-6-(8-(5-(trifluoromethyl)pyridin-2-ylamino)pyrido[2,3-b]pyrazin-3-yl)nicotinamide (compound 12)
Dissolve 5-(trifluoromethyl)-6-(8-(5-(trifluoromethyl)pyridin-2-ylamino)pyrido[2,3-b]pyrazin-3-yl)nicotinonitrile (25 mg, 0.0542 mmol) in 1 mL of conc. H2SO4 and stir at 25° C. for 20 hours under N2 atmosphere. Monitor the reaction by TLC (1% MeOH/EtOAc) and LC/MS for the disappearance of starting material. Quench the reaction mixture with ice (5 g), adjust the pH to 9.0 using 10.0 N aq. NaOH, extract the aq. layer with EtOAc (3×5.0 ml) and dry combined organic layers with MgSO4. Filter the dried extract and concentrate under vacuum. Purify by column chromatography using 1% MeOH/EtOAc as eluent to afford the title compound as a yellow solid. 1H NMR (400 MHz, CDCl3) δ 9.4 (s, 1H), 9.36 (d, 1H, J=0.6 Hz), 9.18 (s, 1H), 9.09 (d, 1H, J=1.4 Hz), 8.95 (d, 1H, J=1.3 Hz), 8.73 (s, 1H), 8.70(d, 1H, J=0.5 Hz), 7.89 (dd, 1H), 7.13 (d, 1H, J=2.2 Hz). MS=480.01 (M+H). The IC50 determined as described in Example 6 is less than 1 micromolar.

reactant | 5-(trifluoromethyl)-6-(8-(5-(trifluoromethyl)pyridin-2-ylamino)pyrido[2,3-b]pyrazin-3-yl)nicotinonitrile | 0.0542 mmol, 25 mg | FC(C=1C(=NC=C(C#N)C1)C1=CN=C2C(=N1)N=CC=C2NC2=NC=C(C=C2)C(F)(F)F)(F)F | C20H9F6N7
reactant | MeOH EtOAc | CO.CCOC(=O)C
solvent | H2SO4 | 1 mL | OS(=O)(=O)O | H2O4S
product | 5-(Trifluoromethyl)-6-(8-(5-(trifluoromethyl)pyridin-2-ylamino)pyrido[2,3-b]pyrazin-3-yl)nicotinamide | FC(C=1C(=NC=C(C(=O)N)C1)C1=CN=C2C(=N1)N=CC=C2NC2=NC=C(C=C2)C(F)(F)F)(F)F | C20H11F6N7O
